US08729061B2
Step 1 (“coupling”): (2S,4R)-tert-butyl 2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxopentan-3-ylcarbamoyl)-4-(2,4-dimethylphenylsulfonyl)pyrrolidine-1-carboxylate
(2S,4R)-1-(tert-butoxycarbonyl)-4-(2,4-dimethylphenylsulfonyl)pyrrolidine-2-carboxylic acid (120 mg, 313 μmol, Eq: 1.00, prepared as described in U.S. Pat. Appl. US20100267722), (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride (99.7 mg, 407 μmol, Eq: 1.3), N,N-diisopropylethylamine (121 mg, 164 μA, 939 μmol, Eq: 3) and HATU (202 mg, 532 μmol, Eq: 1.7) were combined with DMF (2 ml) to give a light brown solution. The reaction was stirred overnight at RT. The crude material was purified by preparative HPLC (column: ymc C18 (120 A), 75×30 mm, acetonitrile/water (+0.1% formic acid)=95%-5% to 5%-95% in 8 min, flow: 25 ml/min). After evaporation of solvents, the title compound was obtained as a light brown foam (64.3 mg, 38.2%, MS (m/e)=538.3 [M+H+]).

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(2,4-dimethylphenylsulfonyl)pyrrolidine-2-carboxylic acid | 313 μmol, 120 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)C)C)C(=O)O | C18H25NO6S
reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | 407 μmol, 99.7 mg | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | N,N-diisopropylethylamine | 939 μmol, 121 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 532 μmol, 202 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (2S,4R)-tert-butyl 2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxopentan-3-ylcarbamoyl)-4-(2,4-dimethylphenylsulfonyl)pyrrolidine-1-carboxylate | C1(CC1)NC([C@H]([C@H](CC)NC(=O)[C@H]1N(C[C@@H](C1)S(=O)(=O)C1=C(C=C(C=C1)C)C)C(=O)OC(C)(C)C)O)=O | C26H39N3O7S
